// 65nm port — bare nch/pch, VDD 1.2V. // Ported from circuit-bench two-stage-opamp. NMOS->nch PMOS->pch,
// L 500n->300n, VDD 1.0V, IBIAS 120u->20u, Miller CCOMP 12p->2p.
simulator lang=spectre
global 0
parameters cm=0.5 vid=0
v_vdd (VDD 0) vsource dc=1.2 type=dc
i_bias (PBIAS 0) isource dc=20u type=dc
v_inp (INP 0) vsource dc=cm+vid/2 type=dc
v_inn (INN 0) vsource dc=cm-vid/2 type=dc
M7 (PBIAS PBIAS VDD VDD) pch l=300n w=120u nf=54
M5 (C PBIAS VDD VDD) pch l=300n w=120u nf=54
M0 (A INN C VDD) pch l=300n w=160u nf=72
M1 (B INP C VDD) pch l=300n w=160u nf=72
M3 (A A 0 0) nch l=300n w=60u nf=27
M4 (B A 0 0) nch l=300n w=60u nf=27
M6 (OUT PBIAS VDD VDD) pch l=300n w=680u nf=303
M2 (OUT B 0 0) nch l=300n w=720u nf=320
CCOMP (B OUT) capacitor c=2p
c_load (OUT 0) capacitor c=500f
simulatorOptions options temp=27 tnom=27 gmin=1e-12
dc dc param=vid start=-0.02 stop=0.02 step=0.0005 annotate=status
save OUT
saveOptions options save=selected
