// 65nm port — bare nch/pch, VDD 1.2V. // Ported from circuit-bench source-follower (feedback follower, current-biased).
// NMOS->nch PMOS->pch, L 0.5u->300n, VDD 1.0V, IB 10uA.
simulator lang=spectre
global 0
parameters vin=0.5
v_vdd (VDD 0) vsource dc=1.2 type=dc
v_in  (IN 0) vsource dc=vin type=dc
i_ib  (0 IB) isource dc=40u type=dc
M1  (A   IN  OUT 0) nch l=300n w=64u nf=29
M2  (OUT A   0   0) nch l=300n w=64u nf=29
CC  (A   0) capacitor c=250f
MRN (IB  IB  0   0) nch l=300n w=8u nf=4
MNS (PD  IB  0   0) nch l=300n w=8u nf=4
MPD (PD  PD  VDD VDD) pch l=300n w=16u nf=8
MPB (A   PD  VDD VDD) pch l=300n w=96u nf=43
simulatorOptions options temp=27 tnom=27 gmin=1e-12
dc dc param=vin start=0.5 stop=1.15 step=0.025 annotate=status
save OUT A
saveOptions options save=selected
