// 65nm port — bare nch/pch, VDD 1.2V. // Ported from circuit-bench dual-hysteresis-comparator (one core).
// sky130 -> nch/pch, L 0.5u->300n 0.15u->150n 2u->300n, VDD 1.0V.
simulator lang=spectre
global 0
parameters vin=0.5
v_vdd (VDD 0) vsource dc=1.2 type=dc
v_inn (INN 0) vsource dc=0.5 type=dc
v_inp (INP 0) vsource dc=vin type=dc
MIP (N1 INP TAIL 0) nch l=300n w=20u nf=9
MIN (N2 INN TAIL 0) nch l=300n w=20u nf=9
R_TAIL (TAIL 0) resistor r=6k
MPLD (N2 N2 VDD VDD) pch l=300n w=80u nf=36
MPLM (N1 N2 VDD VDD) pch l=300n w=80u nf=36
MHN (HYST_N OUT 0 0) nch l=300n w=1u
R_HN (N1 HYST_N) resistor r=3meg
MHP (HYST_P OUT VDD VDD) pch l=300n w=1u
R_HP (N1 HYST_P) resistor r=3meg
MB1P (B1 N1 VDD VDD) pch l=150n w=20u nf=9
MB1N (B1 N1 0 0) nch l=150n w=8u nf=4
MB2P (B2 B1 VDD VDD) pch l=150n w=40u nf=18
MB2N (B2 B1 0 0) nch l=150n w=20u nf=9
MB3P (OUT B2 VDD VDD) pch l=150n w=80u nf=36
MB3N (OUT B2 0 0) nch l=150n w=40u nf=18
simulatorOptions options temp=27 tnom=27 gmin=1e-12
dc dc param=vin start=0.3 stop=0.7 step=0.005 annotate=status
save OUT N1
saveOptions options save=selected
